US05081305
Preparation of bis(2-cyanoethoxy)ethane/3-methoxypropionitrile mixture
As in Example 1, bis(2-cyanoethoxy)ethane was prepared by the addition of 623 g (11.73 moles) of acrylonitrile to 310 g (5.0 moles) of ethylene glycol containing 1.0 g of anhydrous lithium hydroxide at 55°-60° C. over a period of 90 min. The reaction was permitted to stir an additional 2 hr at 50° C. The reaction contents were cooled to 25° C. and 88.0 g (2.75 moles) of methanol was added over a period of 1 hr while maintaining the temperature between 25°-30° C. The mixture was allowed to stir an additional 12 hr at room temperature. Analysis by NMR revealed the crude product mixture to be 79.7 wt % of bis(2-cyanoethoxy)ethane, 17.4 wt % methoxypropionitrile, 1.78 wt % methanol, 0.72 wt % of 2-cyanoethoxyethanol, and 0.33 wt % acrylonitrile.

reactant | bis(2-cyanoethoxy)ethane | C(#N)CCOC(C)OCCC#N | C8H12N2O2
reactant | acrylonitrile | 11.73 moles, 623 g | C(C=C)#N | C3H3N
reactant | ethylene glycol | 5.0 moles, 310 g | C(CO)O | C2H6O2
reactant | lithium hydroxide | [OH-].[Li+]
reactant | methoxypropionitrile | COC(C#N)C | C4H7NO
reactant | 2-cyanoethoxyethanol | C(#N)CCOC(C)O | C5H9NO2
solvent | methanol | CO | CH4O
solvent | methanol | 2.75 moles, 88.0 g | CO | CH4O
product | bis(2-cyanoethoxy)ethane 3-methoxypropionitrile | C(#N)CCOC(C)OCCC#N.COCCC#N | InChI=1S/C8H12N2O2.C4H7NO/c1-8(11-6-2-4-9)12-7-3-5-10;1-6-4-2-3-5/h8H,2-3,6-7H2,1H3;2,4H2,1H3
